US06562828B1
7-(Piperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester
4-(2-tert-Butoxycarbonyl-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-piperidine-1-carboxylic acid benzyl ester (1.3 g) was hydrogenated using 7.5% palladium carbon (300 mg) in a mixture of tetrahydrofuran (10 ml) and methanol (20 ml) at 3 atm over 3 hours. After completion of the reaction, the reaction mixture was filtered through celite and the solvent was evaporated. The residue was dried under reduced pressure to give the title compound (815 mg).

reactant | 4-(2-tert-Butoxycarbonyl-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-piperidine-1-carboxylic acid benzyl ester | 1.3 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COC1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C | C28H36N2O5
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium carbon | 300 mg | [C].[Pd]
product | 7-(Piperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester | 815 mg | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1CCNCC1 | C20H30N2O3
